US03979386
Preparation of 3,4,6-trichloro-5-methoxy-2-cyanobenzoic acid methyl ester
30.2 g of 3,4,5,6-tetrachloro-2-cyanobenzoic acid ammonium salt is introduced, with stirring, into a solution of 10.8 g of sodium methylate in 32 ml of methanol and 100 ml of dimethylformamide. After the slightly exothermic reaction has subsided, stirring is continued for 15 hours at room temperature.

reactant | 3,4,5,6-tetrachloro-2-cyanobenzoic acid ammonium salt | 30.2 g | [NH4+].ClC=1C(=C(C(=O)[O-])C(=C(C1Cl)Cl)Cl)C#N
reactant | sodium methylate | 10.8 g | C[O-].[Na+]
reactant | methanol | 32 ml | CO | CH4O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3,4,6-trichloro-5-methoxy-2-cyanobenzoic acid methyl ester | COC(C1=C(C(=C(C(=C1Cl)OC)Cl)Cl)C#N)=O | C10H6Cl3NO3
